US08466186B2
(f) (R)—N-{4-Chloro-3-[5-chloro-6-(2-hydroxymethyl-pyrrolidin-1-yl)-1H-benzimidazol-2-ylamino]-benzyl}-1-trifluoromethyl-cyclopropanecarboxamide
The title compound was prepared from N-(4-chloro-3-isothiocyanato-benzyl)-1-trifluoromethyl-cyclopropanecarboxamide (85 mg, 0.3 mmol), (R)-1-(4,5-diamino-2-chloro-phenyl)-2-hydroxymethyl-pyrrolidine (62 mg, 0.3 mmol) and EDC (45 μL, 0.3 mmol) in MeCN (5 mL) in analogy with the method described in example 1 step (g).

reactant | N-(4-chloro-3-isothiocyanato-benzyl)-1-trifluoromethyl-cyclopropanecarboxamide | 0.3 mmol, 85 mg | ClC1=C(C=C(CNC(=O)C2(CC2)C(F)(F)F)C=C1)N=C=S | C13H10ClF3N2OS
reactant | (R)-1-(4,5-diamino-2-chloro-phenyl)-2-hydroxymethyl-pyrrolidine | 0.3 mmol, 62 mg | NC1=CC(=C(C=C1N)N1[C@H](CCC1)CO)Cl | C11H16ClN3O
reactant | EDC | 0.3 mmol, 45 μL
solvent | MeCN | 5 mL | CC#N | C2H3N
product | (R)—N-{4-Chloro-3-[5-chloro-6-(2-hydroxymethyl-pyrrolidin-1-yl)-1H-benzimidazol-2-ylamino]-benzyl}-1-trifluoromethyl-cyclopropanecarboxamide | ClC1=C(C=C(CNC(=O)C2(CC2)C(F)(F)F)C=C1)NC1=NC2=C(N1)C=C(C(=C2)Cl)N2[C@H](CCC2)CO | C24H24Cl2F3N5O2
